US05597845
(S)-N-(3,4,5-Trimethoxybenzyl)-N-methyl-2-[[(S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamino]N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide
Prepare by the method of Example 1 using (S)-N-(3,4,5-trimethoxybenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide (0.25 g, 1.0 mmol) and (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt ((S)-tryptophan methyl ester hydrochloride salt) (0.41 g, 1.0 mmol). Purify by chromatography eluting sequentially with 1% methanol/dichloromethane and 5% methanol/dichloromethane to give the title compound: TLC Rf =0.83 (silica gel, 10% methanol/dichloromethane).

reactant | (S)-N-(3,4,5-trimethoxybenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-phenyl-propionamide | 1.0 mmol, 0.25 g | COC=1C=C(CN(C([C@H](CC2=CC=CC=C2)N(C(=O)OC(C)(C)C)CC=O)=O)C)C=C(C1OC)OC | C27H36N2O7
reactant | (S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamine hydrochloride salt | 1.0 mmol, 0.41 g | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](CC(=O)O)N
product | (S)-N-(3,4,5-Trimethoxybenzyl)-N-methyl-2-[[(S)-2-(1H-indol-3-yl)-1-carboxymethyl-ethylamino]N'-(t-butoxycarbonyl)-ethylamino]-3-phenyl-propionamide | COC=1C=C(CN(C([C@H](CC2=CC=CC=C2)N(C(=O)OC(C)(C)C)CCN[C@@H](CC2=CNC3=CC=CC=C23)CC(=O)O)=O)C)C=C(C1OC)OC | C39H50N4O8
